* Reference solution for
* benchmarks/design-agent/tasks/rc-relaxation-oscillator.json.
*
* Comparator-based RC relaxation oscillator, written with behavioral
* elements only (no PDK device models) so it runs anywhere ngspice runs --
* same "runs anywhere" precedent as
* examples/kb/rc-relaxation-oscillator/oscillator.spice (this netlist is a
* copy of that KB example's artifact; see kb/entries/rc-relaxation-
* oscillator.json for the topology writeup this reference solution
* implements). The timing capacitor is charged and discharged by a fixed
* reference current between two reference-derived comparator thresholds,
* so the period is C * dV / I -- both dV and I are derived from the *same*
* reference here rather than from the supply, which is what gives this
* topology its first-order supply/temperature cancellation (see the KB
* entry's sizing_approach).
*
* Circuit body only: no .control/.end cards (klt sim generates those --
* see docs/cli/sim.md, "Netlist convention: a circuit body, not a full
* deck"). corner_cap / corner_iref come from models.lib.

.param vdd=1.8
.param vref_nom=0.9
* Finite line regulation of the reference (0.2 %/V) -- this is what makes
* the supply corner axis move the measured period at all.
.param line_reg=0.002
.param iref=10u
.param cosc=10p

Vdd vdd 0 DC {vdd}

* Reference: stand-in for the bandgap-derived voltage/current reference the
* KB entry pairs this oscillator with (kb/entries/sky130-bandgap-reference.json).
Bref vref 0 V = {vref_nom} * (1 + {line_reg} * (v(vdd) - 1.8))

* Timing capacitor. tc1 gives it a first-order temperature coefficient
* (60 ppm/C), so the temperature corner axis moves the period too.
Cosc cap 0 {cosc*corner_cap} tc1=60u

* DC path for the capacitor node so the operating point is not singular.
* 1 Gohm at ~1 V is ~1 nA against a 10 uA charge current.
Rleak cap 0 1G

* Charge/discharge current source: +iref while the comparator input is
* above the capacitor, -iref otherwise. tanh() is a smooth sign() -- much
* friendlier to the solver than a hard ternary.
Biosc 0 cap I = {iref * corner_iref} * tanh(1000 * (v(vp) - v(cap)))

* Comparator core: high gain, output swinging 0 .. 2*vref off a
* reference-derived rail (not vdd), so the threshold spacing tracks the
* same reference as the charge current.
Bcmp vc 0 V = v(vref) * (1 + tanh(1000 * (v(vp) - v(cap))))
* Rcmp/Ccmp set the comparator propagation delay (~1 ns). Per the KB
* entry, that delay adds directly to each half-period and is the dominant
* error term once the C*dV/I ratio is compensated.
Rcmp vc vo 1k
Ccmp vo 0 1p

* Positive-feedback divider sets the two thresholds either side of vref:
*   vo = 2*vref -> vp = 1.5*vref   (upper threshold)
*   vo = 0      -> vp = 0.5*vref   (lower threshold)
* so dV = vref and the nominal period is 2 * Cosc * vref / iref = 1.8 us.
R3 vo vp 100k
R4 vp vref 100k

* Startup kick: an astable has a metastable DC operating point, and SPICE
* has no noise to leave it. A 50 ns, 10 uA pulse breaks it deterministically.
Istart 0 cap PWL(0 0 1n 10u 50n 10u 51n 0)
